US06110962
2,6-Dimethyl-4-(6-methyl-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenol
A mixture of 11-(4-methoxy-3,5-dimethyl-phenyl)-6-methyl-benzo[b]naphtho[2,3-d]thiophene (0.55 g, 1.44 mmol) and pyridinium hydrochloride (1.0 g, 8.64 mmol) was heated in a 240° C. oil bath for 1.25 hour. During this time an additional amount of pyridinium hydrochloride was added (1.0 g, 8.64 mmol). The reaction mixture was cooled to room temperature and partitioned between dilute HCl and ether. Silica gel was added to the ether phase and the solvent was removed. The adsorbate was flash chromatographed (9:1 petroleum ether:ethyl acetate) to provide a light yellow solid (340 mg). This solid was recrystallized from acetic acid to provide the title compound as a light yellow solid (0.215 g, 41%): mp 147-149° C.: NMR (CDCl3); δ 8.15 (ddd, J=8, 1, 1 Hz, 1H), 7.80 (ddd, J=8, 1, 1 Hz, 1H), 7.71 (ddd, J=8, 1, 1 Hz, 1H), 7.56 (ddd, J=8, 7, 1 Hz, 1H), 7.39 (ddd, J=8, 7, 1 Hz, 1H), 7.35 (ddd, J=8, 8, 1 Hz, 1H), 7.09 (ddd, J=8, 7, 1 Hz, 1H), 7.01 (s, 2H), 6.79 (ddd, J=8, 1, 1 Hz, 1H), 2.96 (s, 3H), 2.36 (s, 6H); MS (EI): 368 (100%, MI); Anal. Calc. for C25H20OS: C, 81.49, H, 5.47, N, 0.00. Found: C, 81.62, H, 5.32, N, -0.03.

reactant | 11-(4-methoxy-3,5-dimethyl-phenyl)-6-methyl-benzo[b]naphtho[2,3-d]thiophene | 1.44 mmol, 0.55 g | COC1=C(C=C(C=C1C)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)C)C | C26H22OS
reactant | pyridinium hydrochloride | 8.64 mmol, 1.0 g | Cl.[NH+]1=CC=CC=C1
product | 2,6-Dimethyl-4-(6-methyl-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenol | 340 mg | CC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)C)C)O | C25H20OS
